US07279469B2
N3-(2-Chloro-4-morpholin-4-yl-phenyl)-1-pyridin-2-yl-1H-[1,2,4]triazole-3,5-diamine:
A mixture of N-cyano-N′-(2-chloro-4-morpholino-phenyl)-O-phenylisourea (0.10 g, 0.28 mmol) and 2-hydrazinopyridine (0.046 g, 0.42 mmol) in iso-propanol (3 mL) was heated at 115° C. for 20 h. The precipitate was filtered, washed with iso-propanol and purified by flash chromatography (SiO2) eluted with 2:98 methanol: dichloromethane to provide the title compound (0.080 g, 79% yield) as a white solid.

reactant | N-cyano-N′-(2-chloro-4-morpholino-phenyl)-O-phenylisourea | 0.28 mmol, 0.10 g | C(#N)NC(OC1=CC=CC=C1)=NC1=C(C=C(C=C1)N1CCOCC1)Cl | C18H17ClN4O2
reactant | 2-hydrazinopyridine | 0.42 mmol, 0.046 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | iso-propanol | 3 mL | C(C)(C)O | C3H8O
product | N3-(2-Chloro-4-morpholin-4-yl-phenyl)-1-pyridin-2-yl-1H-[1,2,4]triazole-3,5-diamine | 0.080 g, 79% yield | ClC1=C(C=CC(=C1)N1CCOCC1)NC1=NN(C(=N1)N)C1=NC=CC=C1 | C17H18ClN7O
